US03963777
3.3 g of 1-allyl-7-chloro-5-(2-fluorophenyl)-1,3-dihydro-2H-1,4-benzodiazepin-2-one 4-oxide are dissolved in acetone and treated dropwise with a solution of 1.6 g of potassium permanganate in water. After the addition, the mixture is stirred for a further 25 minutes at room temperature. Then the mixture is filtered off under vacuum from manganese dioxide, whereupon the manganese dioxide is washed with acetone and the filtrate is freed from acetone on a rotary evaporator. The aqueous phase is extracted with ethyl acetate and the organic phase is washed with water, concentrated and dried azeotropically with benzene. By chromatography on silica gel with ethyl acetate/methanol (9:1) there is isolated from the residue 7-chloro-1-(2,3-dihydroxypropyl)-5-(2-fluorophenyl)-1,3-dihydro-2H-1,4-benzodiazepin-2-one 4-oxide. For analysis, a sample is recrystallized from ethyl acetate; melting point 165°-166°C.

reactant | 1-allyl-7-chloro-5-(2-fluorophenyl)-1,3-dihydro-2H-1,4-benzodiazepin-2-one 4-oxide | 3.3 g | C(C=C)N1C(C[N+](=C(C2=C1C=CC(=C2)Cl)C2=C(C=CC=C2)F)[O-])=O | C18H14ClFN2O2
reactant | potassium permanganate | 1.6 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | acetone | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 7-chloro-1-(2,3-dihydroxypropyl)-5-(2-fluorophenyl)-1,3-dihydro-2H-1,4-benzodiazepin-2-one 4-oxide | ClC=1C=CC2=C(C(=[N+](CC(N2CC(CO)O)=O)[O-])C2=C(C=CC=C2)F)C1 | C18H16ClFN2O4
